US05998433
b) Synthesis of N,N-diethyl-[5-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Diethyl-[5-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.168 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | N,N-Diethyl-[5-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.168 g | C(C)N(CC)CC1=CC=2CN(CCC2O1)S(=O)(=O)CCCCCC1=CC=CC=C1 | C23H34N2O3S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N,N-diethyl-[5-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.C(C)N(CC)CC1=CC=2CN(CCC2O1)S(=O)(=O)CCCCCC1=CC=CC=C1 | InChI=1S/C23H34N2O3S.ClH/c1-3-24(4-2)19-22-17-21-18-25(15-14-23(21)28-22)29(26,27)16-10-6-9-13-20-11-7-5-8-12-20;/h5,7-8,11-12,17H,3-4,6,9-10,13-16,18-19H2,1-2H3;1H
